US05716624
(c) Synthesis of methyl 3-methyl-4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate
Following the basic procedure of Example 11(d), by reacting 2.4 g (10 mmol) of α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol with 2.7 g (10 mmol) of methyl 3-methyl-4-iodobenzoate, 3.2 g (83%) of the expected ester, with a melting point of 130°-131° C., were obtained.

reactant | α-ethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | 10 mmol, 2.4 g | C(#C)C(O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O
reactant | methyl 3-methyl-4-iodobenzoate | 10 mmol, 2.7 g | CC=1C=C(C(=O)OC)C=CC1I | C9H9IO2
product | methyl 3-methyl-4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate | CC=1C=C(C(=O)OC)C=CC1C#CC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C26H30O3
